US04880822
N-(4-Nitro-3-pyridinyl)-1H-indol-1-amine N1 -oxide
A solution of 3-fluoro-4-nitro-pyridine-N-oxide (5 g) and 1H-indol-1-amine (4.2 g) in 25 ml of ethanol was stirred four hours at reflux. The solution was cooled and the product collected and dried to give 4 g of solid, d 195°. This material was recrystallized from ethanol/ether to give 2.2 g of solid, d 200°-201°.

reactant | 3-fluoro-4-nitro-pyridine-N-oxide | 5 g | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | 1H-indol-1-amine | 4.2 g | N1(C=CC2=CC=CC=C12)N | C8H8N2
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | N-(4-Nitro-3-pyridinyl)-1H-indol-1-amine N1 -oxide | 4 g | [N+](=O)([O-])C1=C(C=NC=C1)[NH+](N1C=CC2=CC=CC=C12)[O-] | C13H10N4O3
